US08227492B2
Step 11: Preparation of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-(2-bromoethyl)-N-acetyl sulfoximide
To a suspension of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-(2-hydroxy ethyl)-N-acetyl sulfoximide (90 mg, 0.000168 mol) in DCM (15 mL) was added triphenyl phosphine (44 mg, 0.000168 mol) with stirring followed by carbon tetrabromide (55 mg, 0.000168 mol) at 25-30° C. Reaction mixture was stirred at same temperature for 3 hr. Subsequent work up and column purification (100-200 mesh silica gel, 50% ethyl acetate in hexane) gave 50 mg of titled product in 50% yield.

reactant | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-(2-hydroxy ethyl)-N-acetyl sulfoximide | 0.000168 mol, 90 mg | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=NC(C)=O)CCO | C23H20Cl2N4O5S
reactant | triphenyl phosphine | 0.000168 mol, 44 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.000168 mol, 55 mg | C(Br)(Br)(Br)Br | CBr4
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-(2-bromoethyl)-N-acetyl sulfoximide | 50 mg, 50% yield | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=NC(C)=O)CCBr | C23H19BrCl2N4O4S
